US07482337B2
1-[(indolizin-2-yl)methyl-3-methyl-7-(2-butyn-1-yl)-8-bromo-xanthine
0.61 ml of diisopropyl azodicarboxylate are added to a mixture of 594 mg of 3-methyl-7-(2-butyn-1-yl)-8-bromo-xanthine, 353 mg of (indolizin-2-yl)-methanol and 826 mg of triphenylphosphine in 30 ml of tetrahydrofuran. The reaction mixture is stirred for two hours at ambient temperature. For working up it is diluted with methylene chloride, added to 6 g silica gel and chromatographed through a silica gel column with petroleum ether/ethyl acetate (7:3 to 1:5) as eluant.

reactant | diisopropyl azodicarboxylate | 0.61 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | 3-methyl-7-(2-butyn-1-yl)-8-bromo-xanthine | 594 mg | CN1C(NC(C=2N(C(=NC12)Br)CC#CC)=O)=O | C10H9BrN4O2
reactant | (indolizin-2-yl)-methanol | 353 mg | C=1C(=CN2C=CC=CC12)CO | C9H9NO
reactant | triphenylphosphine | 826 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (indolizin-2-yl)methyl-3-methyl-7-(2-butyn-1-yl)-8-bromo-xanthine | C=1C(=CN2C=CC=CC12)CN1C(=O)N(C=2N=C(N(C2C1=O)CC#CC)Br)C | C19H16BrN5O2
